US07538131B2
d) Preparation of (1R,3S)-3-(Tetrahydropyran-2-yloxymethyl)cyclohexylmethanol
60.6 g of isopropyl (1R,3S)-3-(tetrahydropyran-2-yloxymethyl)cyclohexanecarboxylate were dissolved in 100 ml of THF and, at 0° C., were added dropwise to a suspension of 16.2 g of lithium aluminum hydride in 300 ml of THF. The mixture is stirred at RT until precursor is no longer detectable by TLC. 50 ml of 10N KOH are added to the mixture at 0° C. The solution above the gray precipitate is decanted off, and the residue is digested with ethyl acetate and filtered. The combined filtrates are evaporated, the residue is extracted with ethyl acetate, and the org. phases are dried over MgSO4 and concentrated. The residue is chromatographed on silica gel (heptane/ethyl acetate gradient), resulting in 30.7 g of (1R,3S)-3-(tetrahydropyran-2-yloxymethyl)cyclo-hexylmethanol as yellow oil.

reactant | isopropyl (1R,3S)-3-(tetrahydropyran-2-yloxymethyl)cyclohexanecarboxylate | 60.6 g | O1C(CCCC1)OC[C@@H]1C[C@@H](CCC1)C(=O)OC(C)C | C16H28O4
reactant | lithium aluminum hydride | 16.2 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | KOH | 10N, 50 ml | [OH-].[K+]
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 300 ml | C1CCOC1 | C4H8O
product | (1R,3S)-3-(Tetrahydropyran-2-yloxymethyl)cyclohexylmethanol | O1C(CCCC1)OC[C@@H]1C[C@@H](CCC1)CO | C13H24O3
